US08455646B2
Preparation of (2,5-Dimethoxy-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C55)
PS-DCC (715 mg, 0.951 mmol, loading: 1.33 mmol/g) is suspended in dry THF (10 mL). (2,5-Dimethoxy-phenylamino)-phenyl-acetic acid hydrochloride (I54) (154 mg, 0.48 mmol), HOBT (146 mg, 0.95 mmol) and (R)-quinuclidin-3-ol (181 mg, 1.43 mmol) are added and the mixture is shaken at RT overnight. PS-DCC is filtered off and the filtrate is evaporated. The residue is dissolved in EtOAc and washed with sat. NaHCO3, water and brine. The organic layer is dried over Na2SO4, filtered and evaporated to dryness. The crude compound is purified by flash chromatography (DCM/MeOH=95/5) to achieve the title compound as a colorless oil (108 mg, 57% yield, mixture of diastereoisomers).

reactant | DCC | 0.951 mmol, 715 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (2,5-Dimethoxy-phenylamino)-phenyl-acetic acid hydrochloride | 0.48 mmol, 154 mg | Cl.COC1=C(C=C(C=C1)OC)NC(C(=O)O)C1=CC=CC=C1
reactant | HOBT | 0.95 mmol, 146 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 1.43 mmol, 181 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2,5-Dimethoxy-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 108 mg, 57% yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NC2=C(C=CC(=C2)OC)OC)=O | C23H28N2O4
